US04120856
A suspension of 10 g (0.023 mole) of 7-bromo-1,3-dihydro-5-phenyl-3-trifluoroacetoxy-2H-1,4-benzodiazepin-2-one in a mixture of 130 ml ethanol and 130 ml of 5% aqueous sodium bicarbonate was stirred at room temperature (25°) for 20 hr. The suspended solid was then collected on a filter, washed with water, and recrystallized from ethanol to give 6.5 g (85%) of 7-bromo-1,3-dihydro-3-hydroxy-5-phenyl-2H-1,4-benzodiazepin-2-one as colorless plates: mp 190°-192°; 1H nmr (DMSO-d6) δ 4.86 ppm (1H), 6.27 ppm (1H, OH), 7.18-7.90 ppm (m, 8H).

reactant | 7-bromo-1,3-dihydro-5-phenyl-3-trifluoroacetoxy-2H-1,4-benzodiazepin-2-one | 0.023 mole, 10 g | BrC=1C=CC2=C(C(=NC(C(N2)=O)OC(C(F)(F)F)=O)C2=CC=CC=C2)C1 | C17H10BrF3N2O3
solvent | ethanol | 130 ml | C(C)O | C2H6O
solvent | sodium bicarbonate | 130 ml | C([O-])(O)=O.[Na+]
product | 7-bromo-1,3-dihydro-3-hydroxy-5-phenyl-2H-1,4-benzodiazepin-2-one | 6.5 g, 85% | BrC=1C=CC2=C(C(=NC(C(N2)=O)O)C2=CC=CC=C2)C1 | C15H11BrN2O2
